US07858624B2
To a solution of (S)-tert-butyl 3-(4-acetamido-1-(6-fluoro-3′-methylbiphenyl-3-yl)but-1-enyl)piperidine-1-carboxylate (110 mg, 0.85 mmol) in anhydrous MeOH (3 mL) was added anhydrous Pd(OH)2 (20 mg). The reaction mixture was stirred overnight under a hydrogen atmosphere (monitored by LC-MS) and filtered through a plug of silica. The filtrate was concentrated in vacuo to afford a mixture with two isomers. Purification by preparative HPLC gave (S)-tert-butyl 3-((R)-4-acetamido-1-(6-fluoro-3′-methylbiphenyl-3-yl)butyl)piperidine-1-carboxylate (40 mg, 36% yield). 1H NMR (400 MHz, MeOH):7.31-7.37 (m, 2 H), 7.20 (d, 2 H), 7.13 (d, 2 H), 6.97-7.01 (m, 3 H), 3.95-4.18 (m, 1 H), 3.80-3.92 (m, 1 H), 3.03 (m, 2 H), 2.61-2.72 (m, 1 H), 2.42-2.52 (m, 1 H), 2.38 (d, 3 H), 1.90 (s, 3 H), 1.78 (m, 1 H), 1.42-1.65 (m, 4 H), 1.43 (s, 9 H), 1.15-1.31 (m, 3 H), 1.03 (m, 1 H). MS (E/Z): 483 (M+H+)

reactant | (S)-tert-butyl 3-(4-acetamido-1-(6-fluoro-3′-methylbiphenyl-3-yl)but-1-enyl)piperidine-1-carboxylate | 0.85 mmol, 110 mg | C(C)(=O)NCCC=C(C=1C=C(C(=CC1)F)C1=CC(=CC=C1)C)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C29H37FN2O3
solvent | MeOH | 3 mL | CO | CH4O
catalyst | Pd(OH)2 | 20 mg | [OH-].[OH-].[Pd+2]
product | (S)-tert-butyl 3-((R)-4-acetamido-1-(6-fluoro-3′-methylbiphenyl-3-yl)butyl)piperidine-1-carboxylate | 40 mg, 36% yield | C(C)(=O)NCCC[C@@H](C=1C=C(C(=CC1)F)C1=CC(=CC=C1)C)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C29H39FN2O3
